### PR TITLE
[Merged by Bors] - feat: port Data.Pi.Algebra

### PR DESCRIPTION
**Pull request by joneugster**
- [x] depends on: #579 

Mathlib SHA: 17a9f8f7a4ef32ee65d418103367cf30e84e631d

Done with the reviews. This should hopefully now be ready to merge.

### CODE REVIEW

File: Mathlib/Data/Pi/Algebra.lean [hunk 1]
```diff
@@ -0,0 +1,364 @@
...
+  rfl
+
+-- TODO: deprecated. Remove?
+-- @[simp]
+-- theorem bit0_apply [∀ i, Add <| f i] : (bit0 x) i = bit0 (x i) :=
+--   rfl
+
+-- @[simp]
+-- theorem bit1_apply [∀ i, Add <| f i] [∀ i, One <| f i] : (bit1 x) i = bit1 (x i) :=
+--   rfl
```
Comment (joneugster) [inline Mathlib/Data/Pi/Algebra.lean:138]: Is it right to just delete these?

File: Mathlib/Data/Pi/Algebra.lean [hunk 2]
```diff
@@ -0,0 +1,364 @@
...
+theorem smul_const [HasSmul α β] (a : α) (b : β) : a • const I b = const I (a • b) :=
+  rfl
+
+@[to_additive ]
+theorem smul_comp [HasSmul α γ] (a : α) (x : β → γ) (y : I → β) : (a • x) ∘ y = a • x ∘ y :=
+  rfl
+
+-- @[to_additive] TODO
+instance instPow [∀ i, Pow (f i) β] : Pow (∀ i, f i) β :=
+  ⟨fun x b i => x i ^ b⟩
```
Comment (joneugster) [inline Mathlib/Data/Pi/Algebra.lean:107]: Didn't get `to_additive` to work. Below is what I think it should look like.

File: Mathlib/Data/Pi/Algebra.lean [hunk 3]
```diff
@@ -0,0 +1,364 @@
...
+theorem const_mul [Mul β] (a b : β) : const α a * const α b = const α (a * b) :=
+  rfl
+
+@[to_additive]
+theorem mul_comp [Mul γ] (x y : β → γ) (z : α → β) : (x * y) ∘ z = x ∘ z * y ∘ z :=
+  rfl
+
+-- @[to_additive instHasVadd] -- TODO
+instance instHasSmul [∀ i, HasSmul α <| f i] : HasSmul α (∀ i : I, f i) :=
+  ⟨fun s x => fun i => s • x i⟩
```
Comment (joneugster) [inline Mathlib/Data/Pi/Algebra.lean:83]: Didn't get `to_additive` to work. Below is what I think it should look like.

File: Mathlib/Data/Pi/Algebra.lean [hunk 4]
```diff
@@ -0,0 +1,364 @@
...
+section Extend
+
+@[to_additive]
+theorem extend_one [One γ] (f : α → β) : Function.extend f (1 : α → γ) (1 : β → γ) = 1 :=
+  funext fun _ => by apply ite_self
+
+@[to_additive]
+theorem extend_mul [Mul γ] (f : α → β) (g₁ g₂ : α → γ) (e₁ e₂ : β → γ) :
+    Function.extend f (g₁ * g₂) (e₁ * e₂) = Function.extend f g₁ e₁ * Function.extend f g₂ e₂ :=
+  funext fun _ => by convert (apply_dite₂ (· * ·) _ _ _ _ _).symm
```
Comment (joneugster) [inline Mathlib/Data/Pi/Algebra.lean]: I don't understand these proofs with `apply_dite`, and they don't work anymore.

File: Mathlib/Data/Pi/Algebra.lean [hunk 5]
```diff
@@ -0,0 +1,361 @@
...
+
+@[to_additive]
+theorem extend_one [One γ] (f : α → β) : Function.extend f (1 : α → γ) (1 : β → γ) = 1 :=
+  funext fun _ => by apply ite_self
+
+@[to_additive]
+theorem extend_mul [Mul γ] (f : α → β) (g₁ g₂ : α → γ) (e₁ e₂ : β → γ) :
+    Function.extend f (g₁ * g₂) (e₁ * e₂) = Function.extend f g₁ e₁ * Function.extend f g₂ e₂ :=
+  funext fun _ => by convert (apply_dite₂ (· * ·)).symm
+
```
Comment (joneugster) [inline Mathlib/Data/Pi/Algebra.lean:287]: This and the next two proofs don't work. I'm not sure how to fix that.

File: Mathlib/Data/Pi/Algebra.lean [hunk 6]
```diff
@@ -0,0 +1,361 @@
...
+@[simp, to_additive]
+theorem mul_single_one (i : I) : mulSingle i (1 : f i) = 1 :=
+  Function.update_eq_self _ _
+
+-- TODO: Seems to be a coersion problem: RHS has Type `β`, LHS not.
+/-- On non-dependent functions, `Pi.mulSingle` can be expressed as an `ite` -/
+@[to_additive "On non-dependent functions, `Pi.single` can be expressed as an `ite`"]
+theorem mul_single_apply {β : Sort _} [One β] (i : I) (x : β) (i' : I) :
+    mulSingle i x i' = if i' = i then x else 1 :=
+  Function.update_apply 1 i x i'
```
Comment (joneugster) [inline Mathlib/Data/Pi/Algebra.lean:213]: There seems to be a coersion problem here and in the next proof...

**Review by joneugster — COMMENTED** [review]
Here are the points I'm stuck on.

File: Mathlib/Data/Pi/Algebra.lean [hunk 7]
```diff
@@ -0,0 +1,398 @@
...
+
+-- Porting notes:
+-- 1) Why do I have to specify `(fun (_ : I) => β)` explicitely?
+-- 2) Why do I have to specify the type of `(1 : I → β)`?
+-- 3) Removed `{β : Sort _}` as `[One β]` converts it to a type anyways.
+/-- On non-dependent functions, `Pi.mulSingle` can be expressed as an `ite` -/
+@[to_additive "On non-dependent functions, `Pi.Single` can be expressed as an `ite`"]
+theorem mul_single_apply [One β] (i : I) (x : β) (i' : I) :
+    @mulSingle _ (fun (_ : I) => β) _ _ i x i' = if i' = i then x else 1 :=
+  Function.update_apply (1 : I → β) i x i'
```
Comment (joneugster) [inline Mathlib/Data/Pi/Algebra.lean:216]: Lean3 found `(fun (_ : I) => β)` automatically, Lean4 seems not to. I'm not sure if it's bad to specify this now manually. 

Moreover without the type in `(1 : I → β)`, it complains that some universe is not bigger than zero.

File: Mathlib/Data/Pi/Algebra.lean [hunk 8]
```diff
@@ -0,0 +1,398 @@
...
+  funext fun _ => by apply ite_self
+
+-- Porting note : Had to add `[∀ x, Decidable (∃ a, f a = x)]` to these
+-- next 3 theorems to proof them, but not sure that's correct.
+@[to_additive]
+theorem extend_mul [Mul γ] (f : α → β) (g₁ g₂ : α → γ) (e₁ e₂ : β → γ)
+    [∀ x, Decidable (∃ a, f a = x)]:
+    Function.extend f (g₁ * g₂) (e₁ * e₂) = Function.extend f g₁ e₁ * Function.extend f g₂ e₂ := by
+  funext x
+  simp [Function.extend_def, apply_dite₂]
```
Comment (joneugster) [inline Mathlib/Data/Pi/Algebra.lean:306]: I did not manage a term proof and used tactic mode instead. Is that okay?

Comment (joneugster) [reply Mathlib/Data/Pi/Algebra.lean:306]: Also I do not know if adding `[∀ x, Decidable (∃ a, f a = x)]` will have any concequences or not.

File: Mathlib/Data/Pi/Algebra.lean [hunk 9]
```diff
@@ -0,0 +1,398 @@
...
+  rfl
+
+-- -- Porting note : deprecated. not ported.
+-- @[simp]
+-- theorem bit0_apply [∀ i, Add <| f i] : (bit0 x) i = bit0 (x i) :=
+--   rfl
+--
+-- @[simp]
+-- theorem bit1_apply [∀ i, Add <| f i] [∀ i, One <| f i] : (bit1 x) i = bit1 (x i) :=
+--   rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Pi/Algebra.lean:134]: I think we've been porting those anyway with `set_option linter.deprecated false` to avoid the warnings

File: Mathlib/Data/Pi/Algebra.lean [hunk 10]
```diff
@@ -0,0 +1,398 @@
...
+  cases x <;> rfl
+
+@[to_additive]
+theorem elim_div_div [Div γ] : Sum.elim (a / a') (b / b') = Sum.elim a b / Sum.elim a' b' := by
+  ext x
+  cases x <;> rfl
+
+end Sum
+
+-- Porting note : Atm it seems that to_additive does not copy the `instance` attribute
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Pi/Algebra.lean:392]: Add a reference to #667?

File: Mathlib/Data/Pi/Algebra.lean [hunk 11]
```diff
@@ -0,0 +1,398 @@
...
+    Injective fun x : ∀ i, f i => fun i => F i (x i) :=
+  fun _ _ h => funext fun i => hF i <| (congr_fun h i : _)
+
+theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i)) :
+    Bijective fun x : ∀ i, f i => fun i => F i (x i) :=
+  ⟨injective_pi_map fun i => (hF i).injective, surjective_pi_map fun i => (hF i).surjective⟩
+
+
+#align bijective.injective Bijective.injective
+#align bijective.surjective Bijective.surjective
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Pi/Algebra.lean:343]: Do these belong here?

File: Mathlib/Data/Pi/Algebra.lean (hunk 10 above)
Comment (joneugster) [reply Mathlib/Data/Pi/Algebra.lean:392]: It seems that your comment did exactly that :)

File: Mathlib/Data/Pi/Algebra.lean (hunk 11 above)
Comment (joneugster) [reply Mathlib/Data/Pi/Algebra.lean]: moved.

File: Mathlib/Data/Pi/Algebra.lean (hunk 9 above)
Comment (joneugster) [reply Mathlib/Data/Pi/Algebra.lean]: done.

File: Mathlib/Data/Pi/Algebra.lean [hunk 12]
```diff
@@ -0,0 +1,414 @@
...
+variable [∀ i, One (f i)] [∀ i, One (g i)] [∀ i, One (h i)]
+
+/-- The function supported at `i`, with value `x` there, and `1` elsewhere. -/
+@[to_additive Pi.Single "The function supported at `i`, with value `x` there, and `0` elsewhere."]
+def mulSingle (i : I) (x : f i) : ∀ (j : I), f j :=
+  Function.update 1 i x
+
+@[simp, to_additive]
+theorem mul_single_eq_same (i : I) (x : f i) : mulSingle i x i = x :=
+  Function.update_same i x _
```
Comment (semorrison) [inline Mathlib/Data/Pi/Algebra.lean:221]: Should be named `mulSingle_eq_same` (and will need #align). Also below.

File: Mathlib/Data/Pi/Algebra.lean (hunk 8 above)
Comment (semorrison) [reply Mathlib/Data/Pi/Algebra.lean:334]: First: you should instead `import Mathlib.Tactic.Classical` and use `classical` as the first step of the proof, rather than adding decidability instances as hypotheses. (We only use decidable in hypotheses when they are used in the statement.)

Second: I'd like to understand why the original proof using `convert` fails.

File: Mathlib/Logic/Function/Basic.lean [hunk 13]
```diff
@@ -69,6 +69,10 @@ theorem ne_iff {β : α → Sort _} {f₁ f₂ : ∀ a, β a} : f₁ ≠ f₂ 
 protected theorem Bijective.injective {f : α → β} (hf : Bijective f) : Injective f := hf.1
 protected theorem Bijective.surjective {f : α → β} (hf : Bijective f) : Surjective f := hf.2
 
+-- Porting note : mathlib3port wrote `().Injective` instead of `().injective`.
+#align function.bijective.injective Function.Bijective.injective
+#align function.bijective.surjective Function.Bijective.surjective
```
Comment (semorrison) [inline Mathlib/Logic/Function/Basic.lean:74]: I'd be surprised if these #aligns actually fix that issue. It would be nice to test in oneshot.

File: Mathlib/Data/Pi/Algebra.lean (hunk 8 above)
Comment (joneugster) [reply Mathlib/Data/Pi/Algebra.lean:334]: Removed the `[.. Decidable ..]` as suggested.

As for the Second point, I'm afraid I don't think I have the understanding to figure that out, but if anybody else wants to investigate, the previous proofs are in the comment.

File: Mathlib/Logic/Function/Basic.lean (hunk 13 above)
Comment (joneugster) [reply Mathlib/Logic/Function/Basic.lean:74]: Currently oneshot does not work for me and I don't have the time rn to make it work. If it doesn't fix it, it porbably doesn't hurt anybody either.

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#579~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Logic/Function/Basic.lean (hunk 13 above)
Comment (semorrison) [reply Mathlib/Logic/Function/Basic.lean:74]: Others have added these aligns in other PRs by now, so I guess it's moot.

File: Mathlib/Data/Pi/Algebra.lean [hunk 14]
```diff
@@ -0,0 +1,429 @@
...
+#align pi.mul_single_eq_of_ne' Pi.mulSingle_eq_of_ne'
+#align pi.mul_single_one Pi.mulSingle_one
+#align pi.mul_single_apply Pi.mulSingle_apply
+#align pi.mul_single_comm Pi.mulSingle_comm
+#align pi.apply_mul_single Pi.apply_mulSingle
+#align pi.apply_mul_single₂ Pi.apply_mulSingle₂
+#align pi.mul_single_op Pi.mulSingle_op
+#align pi.mul_single_op₂ Pi.mulSingle_op₂
+#align pi.mul_single_injective Pi.mulSingle_injective
+#align pi.mul_single_inj Pi.mulSingle_inj
```
Comment (semorrison) [inline Mathlib/Data/Pi/Algebra.lean:293]: Please move #aligns to come directly after their definitions.

File: Mathlib/Data/Pi/Algebra.lean [hunk 15]
```diff
@@ -0,0 +1,429 @@
...
+-- They should probably be placed in a lower file and be renamed.
+@[simp]
+theorem prod_fst_snd₂ : (fun (i : α × β) => i) = id :=
+  funext fun _ => Prod.mk.eta
+
+-- Porting note : These two are simp-normal-form versions of the lemmas below.
+-- They should probably be placed in a lower file and be renamed.
+@[simp]
+theorem prod_snd_fst₂ : (fun (i : α × β) => (i.snd, i.fst)) = Prod.swap :=
+  rfl
```
Comment (semorrison) [inline Mathlib/Data/Pi/Algebra.lean:312]: I think just delete these, and on the next two theorems write:
`Porting note: simp now unfolds the lhs, so we are not marking these as simp`.
and hope for the best?

File: Mathlib/Data/Pi/Algebra.lean [hunk 16]
```diff
@@ -0,0 +1,429 @@
...
+@[to_additive]
+theorem extend_mul [Mul γ] (f : α → β) (g₁ g₂ : α → γ) (e₁ e₂ : β → γ):
+    Function.extend f (g₁ * g₂) (e₁ * e₂) = Function.extend f g₁ e₁ * Function.extend f g₂ e₂ := by
+  classical
+  funext x
+  simp only [not_exists, extend_def, Pi.mul_apply, apply_dite₂, dite_eq_ite, ite_self]
+-- Porting note : This was the converted proof term not using tactic mode:
+-- `funext fun _ => by convert (apply_dite₂ (· * ·) _ _ _ _ _).symm`
+-- The Lean3 statement was
+-- `funext $ λ _, by convert (apply_dite2 (*) _ _ _ _ _).symm`
```
Comment (semorrison) [inline Mathlib/Data/Pi/Algebra.lean:345]:
```suggestion
-- Porting note: The Lean3 statement was
-- funext $ λ _, by convert (apply_dite2 (*) _ _ _ _ _).symm
-- which converts to
-- funext fun _ => by convert (apply_dite₂ (· * ·) _ _ _ _ _).symm
-- However this does not work, and we're not sure why.
```

File: Mathlib/Logic/Function/Basic.lean [hunk 17]
```diff
@@ -69,6 +69,10 @@ theorem ne_iff {β : α → Sort _} {f₁ f₂ : ∀ a, β a} : f₁ ≠ f₂ 
...
+
```
Comment (semorrison) [inline Mathlib/Logic/Function/Basic.lean:75]:
```suggestion
```
